US09216985B2
2-fluoro-6-nitro-N-(3-(2,2,2-trifluoroethyl)phenyl)benzamide
Under nitrogen, to 2-fluoro-6-nitrobenzamide (921 mg, 5.00 mmol, 1.00 equiv) in dioxane (5.0 mL) at 23° C. was added palladium acetate (225 mg, 1.00 mmol, 0.200 equiv), Xantphos (868 mg, 1.50 mmol, 0.300 equiv), cesium carbonate (2.28 g, 7.00 mmol, 1.40 equiv), and 1-bromo-3-(2,2,2-trifluoroethyl)benzene (1.31 g, 5.50 mmol, 1.10 equiv). After stirring for 16 hr at 100° C., the reaction mixture was concentrated in vacuo and the residue was purified by column chromatography eluting with EtOAc/hexanes to afford 860 mg of the title compound (50% yield).

reactant | 2-fluoro-6-nitrobenzamide | 5.00 mmol, 921 mg, 1.00 equiv | FC1=C(C(=O)N)C(=CC=C1)[N+](=O)[O-] | C7H5FN2O3
reactant | Xantphos | 1.50 mmol, 868 mg, 0.300 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 7.00 mmol, 2.28 g, 1.40 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-3-(2,2,2-trifluoroethyl)benzene | 5.50 mmol, 1.31 g, 1.10 equiv | BrC1=CC(=CC=C1)CC(F)(F)F | C8H6BrF3
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 1.00 mmol, 225 mg, 0.200 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-fluoro-6-nitro-N-(3-(2,2,2-trifluoroethyl)phenyl)benzamide | 860 mg, 50% yield | FC1=C(C(=O)NC2=CC(=CC=C2)CC(F)(F)F)C(=CC=C1)[N+](=O)[O-] | C15H10F4N2O3
